US07514580B2
In a 50 ml round bottom flask equipped with a reflux condenser, a magnetic stirrer and an inert gas supply, 1.91 g (10.0 mmol) (3R,4S,5R)-5-amino-3,4-dihydroxy-cyclohex-1-enecarboxylic acid mono hydrate was suspended with 19 ml ethanol and cooled to 0-5° C., treated slowly (3 min) with 0.80 ml (11.0 mmol) thionyl chloride, then 1.28 ml (10.0 mmol) diethyl sulfite was added, the mixture was heated to reflux for 3 hours (a gas mixture was evolved), the black reaction mixture was cooled to 20-25° C., to the black suspension, 19 ml ethyl acetate was added dropwise in the course of 30 min, then the mixture was cooled to 0-5° C. and stirred for 1 hour at 0-5° C. The black suspension was filtered, the filter cake was washed portion wise with a mixture of 6.5 ml ethanol and 6.5 ml ethylacetate. The light grey crystals were dried at 40° C./10 mbar/1 h, to obtain 1.57 g (3R,4S,5R)-5-amino-3,4-dihydroxy-cyclohex-1-enecarboxylic acid ethyl ester hydrochloride, as light grey crystals.

reactant | (3R,4S,5R)-5-amino-3,4-dihydroxy-cyclohex-1-enecarboxylic acid mono hydrate | 10.0 mmol, 1.91 g | O.N[C@H]1[C@@H]([C@@H](C=C(C1)C(=O)O)O)O
reactant | ethanol | 19 ml | C(C)O | C2H6O
reactant | thionyl chloride | 11.0 mmol, 0.80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl sulfite | 10.0 mmol, 1.28 ml | S(=O)(OCC)OCC | C4H10O3S
solvent | ethyl acetate | 19 ml | C(C)(=O)OCC | C4H8O2
product | (3R,4S,5R)-5-amino-3,4-dihydroxy-cyclohex-1-enecarboxylic acid ethyl ester hydrochloride | 1.57 g | Cl.C(C)OC(=O)C1=C[C@H]([C@H]([C@@H](C1)N)O)O | InChI=1S/C9H15NO4.ClH/c1-2-14-9(13)5-3-6(10)8(12)7(11)4-5;/h4,6-8,11-12H,2-3,10H2,1H3;1H/t6-,7-,8+;/m1./s1
